US05688815
Under normal pressure and at room temperature, 1.1 g of 3-benzyloxy-2-[(4-benzyloxy-3-methoxy-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-1H-pyridin-4-one are hydrogenated in 50 ml of methanol over 0.2 g of palladium on carbon (5%) until 2 mol of H2 per mol of starting material have been taken up. Removal of the catalyst and recrystallisation from ethanol yield 3-hydroxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-hydroxy-3-methoxy-phenyl)-methyl]-1H-pyridin-4-one. M.p.: 179°-190° C.

reactant | 3-benzyloxy-2-[(4-benzyloxy-3-methoxy-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-1H-pyridin-4-one | 1.1 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C29H29NO6
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 3-hydroxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-hydroxy-3-methoxy-phenyl)-methyl]-1H-pyridin-4-one | OC1=C(N(C=CC1=O)CCO)C(C1=CC(=C(C=C1)O)OC)O | C15H17NO6
